US06545009B1
A mixture of ethyl 3-[4-(3,4-dimethylphenyl)-2-thiazolyl]benzoate (1.25 g), a 1N aqueous solution of sodium hydroxide (10 ml), tetrahydrofuran (10 ml) and ethanol (10 ml) was stirred at 60 to 70° C. for 1 hour. The reaction mixture was poured into 1N hydrochloric acid, and precipitated crystals were collected by filtration, and then washed with water. The product was recrystallized from acetone-hexane to obtain 3-[4-(3,4-dimethylphenyl)-2-thiazolyl]benzoic acid (825 mg, yield: 72%). Colorless prisms. Melting point: 235 to 236° C.

reactant | ethyl 3-[4-(3,4-dimethylphenyl)-2-thiazolyl]benzoate | 1.25 g | CC=1C=C(C=CC1C)C=1N=C(SC1)C=1C=C(C(=O)OCC)C=CC1 | C20H19NO2S
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-[4-(3,4-dimethylphenyl)-2-thiazolyl]benzoic acid | 825 mg, yield: 72% | CC=1C=C(C=CC1C)C=1N=C(SC1)C=1C=C(C(=O)O)C=CC1 | C18H15NO2S
